US07485283B2
9a. 1-(2,2-dimethyl-2H-chromen-6-yl)-2-hydroxy-2-(3,4,5-trimethoxy-phenyl)-ethanone
The 1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone (184.1 mg, 0.5 mmol) dissolved in THF (3 mL) is added dropwise to a stirring cold (−78° C.) solution of NaHMDS (0.6 mL, 1.0M in THF) in THF (3 mL). The resulting reaction mixture is stirred for 30 minutes before (+/−)-camphoryl-sulfonyloxaziridine (187 mg, 0.75 mmol) in THF (3 mL) is added dropwise. After 15 minutes the reaction mixture is quenched with sat. NH4I (aqueous) solution (3 mL) and diluted with diethyl ether. The mixture is allowed to warm up to room temperature. The aqueous layer is extracted with diethyl ether. Combined organic layers are washed with water, brine, dried over sodium sulfate, filtered, and concentrated. Crude 1-(2,2-dimethyl-2H-chromen-6-yl)-2-hydroxy-2-(3,4,5-trimethoxy-phenyl)-ethanone is purified using silica gel chromatography.

reactant | 1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone | 0.5 mmol, 184.1 mg | CC1(OC2=CC=C(C=C2CC1)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O)C | C22H26O5
reactant | NaHMDS | 1.0M, 0.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(2,2-dimethyl-2H-chromen-6-yl)-2-hydroxy-2-(3,4,5-trimethoxy-phenyl)-ethanone | CC1(OC2=CC=C(C=C2C=C1)C(C(C1=CC(=C(C(=C1)OC)OC)OC)O)=O)C | C22H24O6
